US08877782B2
N-(2-Hydroxy-1-methyl-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (150 mg, 0.5 mmol) was converted, using rac-2-amino-1-propanol instead of methylamine, to the title compound (158 mg, 89%) which was obtained as a white solid. MS: m/e=368.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.5 mmol, 150 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | rac-2-amino-1-propanol | NC(CO)C | C3H9NO
product | N-(2-Hydroxy-1-methyl-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 158 mg, 89% | OCC(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C20H21N3O4
